US07781478B2
1-(1-Ethyl-6-methoxy-1H-indol-3-yl)-ethanone (100 mg, 0.46 mmol), prepared from 1-ethyl-6-methoxy-1H-indole by the procedure described in example 1L, is heated with 1.5 mL of dimethylformamide dimethyl acetal and 100 μL pyrrolidine at 110° C. overnight. The DMF dimethyl acetal is removed in vacuo. The residue is redissolved in 3 mL of acetic acid, hydrazine hydrate (70 μL, 1.38 mmol) is added, and the mixture is heated to 100° C. for 2 h. The acetic acid is removed in vacuo, and the residue is partitioned between EtOAc and saturated NaHCO3. The organic phase is dried and concentrated and the product purified by silica gel chromatography (EtOAc/Hex, 1/1) to give 59 mg of 1-ethyl-6-methoxy-3-(2H-pyrazol-3-yl)-1H-indole (54%) as a colorless semisolid. Trituration in Et2O gives a white crystalline powder.

reactant | 1-(1-Ethyl-6-methoxy-1H-indol-3-yl)-ethanone | 0.46 mmol, 100 mg | C(C)N1C=C(C2=CC=C(C=C12)OC)C(C)=O | C13H15NO2
reactant | 1-ethyl-6-methoxy-1H-indole | C(C)N1C=CC2=CC=C(C=C12)OC | C11H13NO
reactant | dimethylformamide dimethyl acetal | 1.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine hydrate | 1.38 mmol, 70 μL | O.NN
solvent | pyrrolidine | 100 μL | N1CCCC1 | C4H9N
product | 1-ethyl-6-methoxy-3-(2H-pyrazol-3-yl)-1H-indole | 59 mg, 54% | C(C)N1C=C(C2=CC=C(C=C12)OC)C=1NN=CC1 | C14H15N3O
